US08293917B2
Triphenylphosphine (PS-resin bound, 287 mg) and palladium acetate (70 mg, 0.31 mmol) were combined in a pressure vial. Dimethylformamide (3 mL) was added. The vial was flushed with nitrogen and a septa was affixed. The mixture was stirred at room temp. for 1 h, then the septa was removed and zinc cyanide (367 mg, 3.13 mmol) was added, followed by 2-methylpropane 2-sulfinic acid [(S)-1-(2-bromo-pyridin-4-yl)-propyl]-amide (1.00 g, 3.13 mmol) in dimethylformamide (7 mL). The vial was again flushed with nitrogen and sealed. The reaction was allowed to heat at 140° C. in an oil bath for 1 h. The solids are filtered of using a glass frit and rinsed with diethylether. The filtrate was diluted with diethylether and extracted with water (2×40 mL) and with brine (40 mL). The organic phase was dried with sodium sulfate and concentrated. The residue was purified by prepHPLC (eluted with 15-85% acetonitrile in water, with 0.1% TFA). Fractions were concentrated to remove acetonitrile, basified by sat. sodium bicarbonate solution, extracted with ethyl acetate, washed with brine, dried over sodium sulfate, filtered, and concentrated to yield 2-methyl-propane-2-sulfinic acid [(S)-1-(2-cyano-pyridin-4-yl)-propyl]-amide as a colorless oil (460 mg, 55%).

reactant | Triphenylphosphine | 287 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-methylpropane 2-sulfinic acid [(S)-1-(2-bromo-pyridin-4-yl)-propyl]-amide | 3.13 mmol, 1.00 g | BrC1=NC=CC(=C1)[C@H](CC)NS(=O)C(C)(C)C | C12H19BrN2OS
reactant | dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
reactant | Dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.31 mmol, 70 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | zinc cyanide | 3.13 mmol, 367 mg | [C-]#N.[Zn+2].[C-]#N
product | 2-methyl-propane-2-sulfinic acid [(S)-1-(2-cyano-pyridin-4-yl)-propyl]-amide | 460 mg, 55% | C(#N)C1=NC=CC(=C1)[C@H](CC)NS(=O)C(C)(C)C | C13H19N3OS
